US05034401
c) (±)5-{1-Hydroxy-2-[4-(2-pyridinyloxy)-1-piperidyl]ethyl}-3H-indol-2-one
A mixture of 4.19 g (20 mmoles) 5-chloroacetyl-3H-indol-2-one, 150 ml ethanol, 6 g sodium carbonate and 5 g 4-(2-pyridinyloxy)piperidine dihydrochloride is heated under reflux for 2 h 30 min. The mixture is cooled in an ice bath, 10 ml water and then 8 g potassium borohydride are added and stirring is continued at ambient temperature of1 h. 300 ml water are added, the mixture is extracted with ethyl acetate and the extract is evaporated and purified by chromatography on a silica column, eluting with a 96/4 mixture of dichloromethane/ methanol. After recrystallization in 2-propanol 1.88 g of pure compound are isolated.

reactant | 5-chloroacetyl-3H-indol-2-one | 20 mmoles, 4.19 g | ClCC(=O)C=1C=C2CC(NC2=CC1)=O | C10H8ClNO2
reactant | sodium carbonate | 6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(2-pyridinyloxy)piperidine dihydrochloride | 5 g | Cl.Cl.N1=C(C=CC=C1)OC1CCNCC1
reactant | potassium borohydride | 8 g | [BH4-].[K+]
solvent | water | 300 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (±)5-{1-Hydroxy-2-[4-(2-pyridinyloxy)-1-piperidyl]ethyl}-3H-indol-2-one | OC(CN1CCC(CC1)OC1=NC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C20H23N3O3
